### PR TITLE
Set syntax

### PR DESCRIPTION
**Pull request by gmalecha**
This is a big change. It restricts reified values to live in sort `Set` rather than an arbitrary `Type`. In addition to reducing the number of universes floating around, it makes universe issues arise sooner (i.e. before the terms are used). For example, it surfaced numerous issues with universe polymorphic definitions.

@jesper-bengtson Any objections?

### CODE REVIEW

**Comment by gmalecha** [comment]
The main problem with switching to Set is that we will not be able to embed constants inside the language anymore unless they also live in `Set`. We could generalize this to make all of the uses of `Set` be something like `Type@{Usyntax}`.

The conclusion of this reasoning is to make it universe polymorphic.

File: examples/Cancel/MonoidSyntaxSimple.v [hunk 1]
```diff
@@ -135,18 +135,18 @@ Module Syntax (M : Monoid).
...
-               CApp (CRec 0) (CRec 0) (@ExprCore.App typ func) ::
-               CAbs (CCall reify_monoid_typ) (CRec 0) (@ExprCore.Abs typ func) ::
-               CVar (@ExprCore.Var typ func) ::
-               CMap other (Patterns.CTypedTable reify_monoid_typ table_terms) :: nil)).
+    CFix@{Set}
+      (CFirst_@{Set} (CPatterns@{Set} patterns_monoid ::
+               CApp@{Set Set Set} (CRec@{Set} 0) (CRec@{Set} 0) (@ExprCore.App typ func) ::
+               CAbs@{Set Set Set} (CCall@{Set} reify_monoid_typ) (CRec@{Set} 0) (@ExprCore.Abs typ func) ::
+               CVar@{Set} (@ExprCore.Var typ func) ::
+               CMap@{Set Set} other (CTypedTable@{Set Set} reify_monoid_typ table_terms) :: nil)).
```
Comment (gmalecha) [inline examples/Cancel/MonoidSyntaxSimple.v]: This should be written using a Definition and then a `Reify Declare Syntax`. Longer term, `Reify Declare Syntax` should do the same thing as `Definition` in terms of internalization of terms.

File: examples/Hoare/ILogicFunc.v [hunk 2]
```diff
@@ -65,12 +66,12 @@ Section typed.
   | Empty : forall F, tree F.
   **)
 
-  Inductive loption (t : Type) : Type :=
+  Inductive loption (t : Type@{Utc}) : Type@{Utc} :=
   | lSome : t -> loption t
   | lNone.
   Global Arguments lNone {_}.
```
Comment (gmalecha) [inline examples/Hoare/ILogicFunc.v]: Overall, this should use polymorphic potions `ExtLib.Data.POption`

File: examples/Hoare/ILogicFunc.v [hunk 3]
```diff
@@ -92,10 +93,13 @@ Section typed.
   Variable Typ2_tyArr : Typ2 _ RFun.
   Variable Typ0_tyProp : Typ0 _ Prop.
 
+
+
+
```
Comment (gmalecha) [inline examples/Hoare/ILogicFunc.v]: Extra space?

File: examples/Hoare/ILogicFunc.v [hunk 4]
```diff
@@ -128,6 +132,8 @@ Section typed.
       end
     end.
 
+
+
```
Comment (gmalecha) [inline examples/Hoare/ILogicFunc.v]: Extra space?

File: examples/Hoare/LogicTac.v [hunk 5]
```diff
@@ -37,30 +39,32 @@ Section parametric.
...
 
   Instance ptrn_ok_bin_op : ltac:(PtrnOk @bin_op) := _.
 
-  Definition ptrn_entails {T U V}
-             (t : ptrn typ V)
-             (a : ptrn (expr typ func) (V -> T))
-             (b : ptrn (expr typ func) (T -> U))
-  : ptrn (expr typ func) U :=
-    appl (appl (inj (ptrn_view _ (fptrn_lentails t))) a) b.
+Set Printing Universes.
```
Comment (gmalecha) [inline examples/Hoare/LogicTac.v]: Remove.

File: examples/Hoare/LogicTac.v [hunk 6]
```diff
@@ -87,20 +91,25 @@ Section parametric.
...
     unfold bin_op. intros. ptrn_elim; subst.
-    do 6 eexists. repeat (split; [ reflexivity | ]); auto.
+    do 6 eexists.
+    repeat (split; [ reflexivity | ]); auto.
   Qed.
 
-  Theorem Succeeds_ptrn_entails {T U V} e t a b r
-  : ptrn_ok a -> ptrn_ok b -> ptrn_ok t ->
-    Succeeds e (@ptrn_entails T U V t a b) r ->
+Axiom todo : forall P : Prop, P.
```
Comment (gmalecha) [inline examples/Hoare/LogicTac.v]: Remove.

File: examples/Hoare/LogicTac.v [hunk 7]
```diff
@@ -167,36 +176,33 @@ Section parametric.
       eapply SimpleOpen_to_OpenAs_sound; eauto.
       simpl. unfold propD, exprD_typ0. simpl. intros.
       forwardy.
-      solve_denotation.
+      inv_all. subst.
       unfold symAs in H. simpl in H.
```
Comment (gmalecha) [inline examples/Hoare/LogicTac.v]: So many changes probably means there is a bug in the patterns Ltac code. After fixing patterns, we need to clean this up.

File: examples/PolyRewrite/Monads/MSimpleMonadsReify.v [hunk 8]
```diff
@@ -52,49 +52,50 @@ Module RMonad (MM : Monad) (FF : Frob MM).
...
-    CFix
-      (CFirst
-         (CPattern (ls := _ :: _ :: nil) (@RImpl (@RGet 0 RIgnore) (@RGet 1 RIgnore)) (fun (a b : function (CRec 0)) => tyArr a b) ::
-         @CPatterns typ patterns_simplemon_typ ::
-         @CPatterns typ patterns_simplemon_typ_special ::
+    CFix@{Set}
+      (CFirst_@{Set}
+         (CPattern@{Set} (ls := _ :: _ :: nil) (@RImpl (@RGet 0 RIgnore) (@RGet 1 RIgnore)) (fun (a b : function (CRec 0)) => tyArr a b) ::
+         @CPatterns@{Set} typ patterns_simplemon_typ ::
+         @CPatterns@{Set} typ patterns_simplemon_typ_special ::
```
Comment (gmalecha) [inline examples/PolyRewrite/Monads/MSimpleMonadsReify.v]: This should be fixed with the pattern `Definition` then `Reify Declare Syntax`.

File: examples/PolyRewrite/Monads/MSimpleMonadsReify.v [hunk 9]
```diff
@@ -52,49 +52,50 @@ Module RMonad (MM : Monad) (FF : Frob MM).
...
+              (CPatterns@{Set} patterns_simplemon ::
+               CApp@{Set Set Set} (CRec@{Set} 0) (CRec@{Set} 0) (@ExprCore.App typ func) ::
+               CAbs@{Set Set Set} (CCall@{Set} reify_simplemon_typ) (CRec@{Set} 0) (@ExprCore.Abs typ func) ::
+               CVar@{Set} (@ExprCore.Var typ func) ::
+
+               CPattern@{Set} (ls := _ :: nil) (!! (@eq) @ ?0)
+                        (fun (t : function@{Set} (CCall@{Set} reify_simplemon_typ)) => Inj (typ:=typ) (Eq t)) ::
+
+               CPattern@{Set} (ls := _ :: _ :: nil) (RPi (?0) (?1))
+                        (fun (t : function@{Set} (CCall@{Set} reify_simplemon_typ)) (b : function@{Set} (CRec@{Set} 0)) =>
```
Comment (gmalecha) [inline examples/PolyRewrite/Monads/MSimpleMonadsReify.v]: Same.

File: examples/PolyRewrite/Monads/RtacDemo.v [hunk 10]
```diff
@@ -31,6 +31,26 @@ Set Strict Implicit.
 (* Convenient abbreviation for modular type *)
 Let tyBNat := CoreTypes.tyBase0 tyNat.
 
+Lemma lambda_exprD_AbsX:
+  forall (typ func : Set) (RType_typD : RType typ) (RTOk : RTypeOk) (Typ2_Fun : Typ2 RType_typD RFun)
```
Comment (gmalecha) [inline examples/PolyRewrite/Monads/RtacDemo.v]: Bad name.

File: examples/PolyRewrite/QuantifierPuller/PolyQuantPullRtac.v [hunk 11]
```diff
@@ -435,9 +436,9 @@ Proof.
     intros. unfold Rrefl, Rcast_val, Rcast, Relim; simpl.
     f_equal.
     apply FunctionalExtensionality.functional_extensionality.
-    intros. rewrite H5. rewrite H6. reflexivity. }
+    intros. rewrite H5. rewrite H6. reflexivity. *) }
   { eauto. }
-Qed.
```
Comment (gmalecha) [inline examples/PolyRewrite/QuantifierPuller/PolyQuantPullRtac.v]: Problem!

File: theories/Lambda/ExprTac.v [hunk 12]
```diff
@@ -244,4 +284,169 @@ Section lemmas.
...
+           pose proof (@exprT_Inj_castR _ _ tus tvs _ T v) as H ; change_rewrite H ; clear H
+         | |- context [ @AbsAppI.exprT_App _ _ _ ?tus ?tvs ?d ?c (@castR _ _ _ ?T _ ?f) ?x] =>
+           let H := fresh in
+           pose proof (@exprT_App_castRl _ _ tus tvs _ _ _ _ _ f x) as H ; change_rewrite H ; clear H
+         end.
+
+
+
+(* TODO(gmalecha): Remove this. It appears to be duplicated.
+Section ExprDInject.
```
Comment (gmalecha) [inline theories/Lambda/ExprTac.v]: Eliminate?

File: theories/Lambda/Rewrite/HintDbs.v [hunk 13]
```diff
@@ -70,30 +70,38 @@ Section setoid.
...
-                        else True).
+                        then Some (inst pc args)
+                        else None).
 
   (* TODO(mario): end duplicated code *)
 
   Definition rw_lemmaP (rw : rw_lemma typ func Rbase) : Prop :=
     lemmaD (rw_conclD RbaseD) nil nil rw.
 
+  Set Printing Universes.
```
Comment (gmalecha) [inline theories/Lambda/Rewrite/HintDbs.v]: Debugging?

File: theories/Lib/ListOpView.v [hunk 14]
```diff
@@ -241,7 +241,7 @@ Section MakeListOp.
     try (right; unfold Fails; reflexivity).
     destruct (Hok t).
     { left. destruct H; exists x. revert H. compute; intros.
-      rewrite H. reflexivity. }
+      rewrite H. reflexivity. }repeat rewrite Rcast_val_eq_refl by eauto.
```
Comment (gmalecha) [inline theories/Lib/ListOpView.v]: Ugly.

File: theories/Lib/NatView.v [hunk 15]
```diff
@@ -249,32 +250,36 @@ Section PtrnNat.
   Definition ptrnNat {T : Type} (p : ptrn nat T) : ptrn (expr typ func) T :=
     inj (ptrn_view FV (fptrnNat p)).
 
-  Definition ptrnPlus {A B T : Type}
-             (a : ptrn (expr typ func) A)
-             (b : ptrn (expr typ func) B) : ptrn (expr typ func) (A * B) :=
-    pmap (fun xy => match xy with (_, a, b) => (a, b) end)
-         (app (app (inj (ptrn_view FV fptrnPlus)) a) b).
+  Set Printing Universes.
+  Set Printing All.
```
Comment (gmalecha) [inline theories/Lib/NatView.v]: Debugging.
